US06350749B1
A mixture of 2,2-dimethyl-5-[(3-oxo-5-(2-chlorophenyl)-1-cyclohexenylamino)methylene]-[1,3]dioxane-4,6-dione (1.6 g) in diphenylether (20 ml) was stirred at 260° C. for 30 minutes. Under reduced pressure, the solvent was evaporated, and the resulting crystals were washed with petroleum ether and recrystallized from ethanol to give 7-(2-chlorophenyl)-1,4,5,6,7,8-hexahydroquinoline-4,5-dione (1.1 g).

reactant | 2,2-dimethyl-5-[(3-oxo-5-(2-chlorophenyl)-1-cyclohexenylamino)methylene]-[1,3]dioxane-4,6-dione | 1.6 g | CC1(OC(C(C(O1)=O)=CNC1=CC(CC(C1)C1=C(C=CC=C1)Cl)=O)=O)C | C19H18ClNO5
solvent | diphenylether | 20 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-(2-chlorophenyl)-1,4,5,6,7,8-hexahydroquinoline-4,5-dione | 1.1 g | ClC1=C(C=CC=C1)C1CC(C=2C(C=CNC2C1)=O)=O | C15H12ClNO2
